*** SPICE deck for cell NMOS_sch{sch} from library NMOS
*** Created on Thu May 29, 2025 16:08:58
*** Last revised on Fri May 30, 2025 21:55:55
*** Written on Fri May 30, 2025 21:56:08 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF
*CMOS/BULK-NWELL (PRELIMINARY PARAMETERS)
.OPTIONS NOMOD DEFL=3UM DEFW=3UM DEFAD=70P DEFAS=70P LIMPTS=1000
+ITL5=0 RELTOL=0.01 ABSTOL=500PA VNTOL=500UV LVLTIM=2
+LVLCOD=1
.MODEL N NMOS LEVEL=1
+KP=60E-6 VTO=0.7 GAMMA=0.3 LAMBDA=0.05 PHI=0.6
+LD=0.4E-6 TOX=40E-9 CGSO=2.0E-10 CGDO=2.0E-10 CJ=.2MF/M^2
.MODEL P PMOS LEVEL=1
+KP=20E-6 VTO=0.7 GAMMA=0.4 LAMBDA=0.05 PHI=0.6
+LD=0.6E-6 TOX=40E-9 CGSO=3.0E-10 CGDO=3.0E-10 CJ=.2MF/M^2
.MODEL DIFFCAP D CJO=.2MF/M^2

*** TOP LEVEL CELL: NMOS_sch{sch}
Mnmos-4@1 d g s b N L=0.36U W=0.36U

* Spice Code nodes in cell cell 'NMOS_sch{sch}'
Vd d gnd 0
Vg g gnd 0
Vs s gnd 0
Vb b gnd 0
.dc Vd 0 5 1m Vg 0 5 1
.include C:\Users\vinhp\OneDrive\Desktop\Electric\c5_models.tx
.END
